US05352655
To 15 ml of toluene were added 0.8 g of 1-(1-methyl-1-phenylethyl)-4-bromomethyl-3-(3-fluorophenyl)pyrrolidine-2-one and 0.4 g of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU), and the solution was then stirred at room temperature for 2 hours. After water was added to the solution, extraction was made with toluene, and the resultant extract was then dried over anhydrous sodium sulfate. After the solvent was distilled off, silica gel column chromatography was done to obtain 0.45 g of the desired 3-(1-methyl-1-phenylethyl)-1-(3-fluorophenyl)-3-azabicyclo[3.1.0]hexane-2-one.

reactant | 1-(1-methyl-1-phenylethyl)-4-bromomethyl-3-(3-fluorophenyl)pyrrolidine-2-one | 0.8 g | CC(C)(C1=CC=CC=C1)N1C(C(C(C1)CBr)C1=CC(=CC=C1)F)=O | C20H21BrFNO
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.4 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(1-methyl-1-phenylethyl)-1-(3-fluorophenyl)-3-azabicyclo[3.1.0]hexane-2-one | 0.45 g | CC(C)(C1=CC=CC=C1)N1C(C2(CC2C1)C1=CC(=CC=C1)F)=O | C20H20FNO
